US07282588B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-N-[2-(4-methyl-1-piperazinyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxamide
A solution of 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (0.331 mmol), 2-(4-methyl-piperazin-1-yl)-ethylamine (0.993 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.397 mmol) in N,N-dimethylformamide (1 mL) under nitrogen was stirred for 17 h at room temperature. The reaction was concentrated in vacuo and purification by Gilson reverse phase HPLC afforded the title compound as a solid (20%). ESMS [M+H]+: 503.4

reactant | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 0.331 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C(=O)O)C2=CC=C(C=C2)[N+](=O)[O-] | C19H15N5O4
reactant | 2-(4-methyl-piperazin-1-yl)-ethylamine | 0.993 mmol | CN1CCN(CC1)CCN | C7H17N3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.397 mmol | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-N-[2-(4-methyl-1-piperazinyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 20% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C(=O)NCCN2CCN(CC2)C)C2=CC=C(C=C2)[N+](=O)[O-] | C26H30N8O3
